US07495103B2
A mixture of N-{4-[2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-3-nitro-phenyl}-acetamide (5 g, 16 mmol) and Raney Ni (1 g) in MeOH (50 mL) was stirred under H2 (1 atm) at room temperature 1 h. The catalyst was filtered off and the filtrate was concentrated. The residue was purified by column chromatography (petroleum ether-EtOAc, 100:1) to give N-{3-amino-4-[2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-phenyl}-acetamide (1.6 g, 35%).

reactant | N-{4-[2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-3-nitro-phenyl}-acetamide | 16 mmol, 5 g | COCCOCC(C)(C)C1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C15H22N2O5
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Ni | 1 g | [Ni] | Ni
product | N-{3-amino-4-[2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-phenyl}-acetamide | 1.6 g, 35% | NC=1C=C(C=CC1C(COCCOC)(C)C)NC(C)=O | C15H24N2O3
